US09079902B2
N-(2,4-dimethoxybenzyl)-1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.050 g, 0.075 mmol) was dissolved in 0.5 mL of DCM and TFA (0.5 ml, 6.49 mmol) was added. The reaction was stirred for 15 minutes at room temperature. The reaction was concentrated, dissolved in acetonitrile, and passed through a PEAX ion exchange column (purchased from Biotage, LLC, Charlotte, N.C.). The column was flushed several times with acetonitrile, then the product was liberated by flushing several times with an 1M HCl solution in 15% MeOH/EtOAc. The solution was concentrated to afford 1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide (0.029 g, 0.056 mmol, 75% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ=8.94-8.84 (m, 2 H), 8.46 (s, 1 H), 8.41 (s, 1 H), 8.32 (s, 1 H), 8.30 (d, J=6.1 Hz, 2 H), 8.14-8.09 (m, 3 H), 8.05 (d, J=1.3 Hz, 1 H), 7.62 (dd, J=1.6, 8.6 Hz, 1 H), 3.98 (s, 3 H). m/z (ESI). 516.0 (M+H)+.

reactant | N-(2,4-dimethoxybenzyl)-1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.075 mmol, 0.050 g | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)C2=CC(=CC(=C2)C(F)(F)F)C2=CC=NC=C2)C2=NC=NS2)C=CC(=C1)OC | C32H26F3N5O4S2
reactant | TFA | 6.49 mmol, 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-(3-(pyridin-4-yl)-5-(trifluoromethyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | 0.056 mmol, 0.029 g, 75% yield | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C1=CC(=CC(=C1)C(F)(F)F)C1=CC=NC=C1 | C23H16F3N5O2S2
